US08133908B2
Description 29: 1,1-dimethylethyl (1S,4S,6S)-4-(aminomethyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate (D29)
1,1-dimethylethyl (1S,4S,6S)-4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-3-azabicyclo[4.1.0]heptane-3-carboxylate D28 (1.8 g) was dissolved in EtOH (8 ml) then hydrazine (2.476 ml, 50.5 mmol) was carefully added and the reaction stirred at room temperature for 2 hours. All volatiles were removed under vacuum and the solid residue was purified by SCX chromatography (column size 20 g using MeOH 100% to MeOH/NH3 2M). The product recovered showed a low purity so it was purified again by silica —NH chromatography (Biotage SP—column size 28 g using EtOAc 100% as eluent). It was recovered the title compound D29 (793 mg). UPLC: (Acid Final_QC): rt=0.46 minutes, peaks observed: 227 (M+1). C12H22N2O2 requires 226. 1H NMR (400 MHz, CDCl3) δ ppm 4.41 (br. s., 1 H) 3.66 (br. s., 1 H) 2.90-2.65 (m, 2 H) 2.42-2.17 (m, 2 H) 1.60-1.40 (m, 11 H) 1.21-1.08 (m, 1 H) 1.06-0.84 (m, 2 H) 0.81-0.68 (m, 1 H) 0.30-0.04 (m, 1 H).

reactant | 1,1-dimethylethyl (1S,4S,6S)-4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-3-azabicyclo[4.1.0]heptane-3-carboxylate | O=C1N(C(C2=CC=CC=C12)=O)C[C@H]1N(C[C@H]2C[C@H]2C1)C(=O)OC(C)(C)C | C20H24N2O4
reactant | hydrazine | 50.5 mmol, 2.476 ml | NN | H4N2
solvent | EtOH | 8 ml | CCO | C2H6O
product | 1,1-dimethylethyl (1S,4S,6S)-4-(aminomethyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate | NC[C@H]1N(C[C@H]2C[C@H]2C1)C(=O)OC(C)(C)C | C12H22N2O2
